US04576749
(B) (Z)-2-Amino-α-[[1,1-dimethyl-2-oxo-2-(N-tritylpiperazinyl)ethoxy]imino]-4-thiazoleacetic acid, methyl ester
To a solution of (Z)-2-amino-α-[(1-carboxy-1-methylethoxy)imino]-4-thiazoleacetic acid, methyl ester (3.16 g, 11.0 mmol) in dimethylformamide (44 ml) and N,N-diisopropylethylamine (2.11 ml, 12.1 mmol) at -10° C. was added diphenylchlorophosphate (2.51 ml, 12.1 mmol). After one hour at -10° C., a solution of N-tritylpiperazine (3.87 g, 11.0 mmol correcting for 7% by weight triethylamine) in tetrahydrofuran (20 ml) and triethylamine (1.54 ml, 11.0 mmol) was added over 15 minutes. The reaction was stirred for an additional 15 minutes at -10° C. and for 2 hours at 0° C.

reactant | (Z)-2-amino-α-[(1-carboxy-1-methylethoxy)imino]-4-thiazoleacetic acid, methyl ester | 11.0 mmol, 3.16 g | NC=1SC=C(N1)/C(/C(=O)OC)=N/OC(C)(C)C(=O)O | C10H13N3O5S
reactant | N,N-diisopropylethylamine | 12.1 mmol, 2.11 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenylchlorophosphate | 12.1 mmol, 2.51 ml | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | N-tritylpiperazine | 11.0 mmol, 3.87 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C23H24N2
reactant | triethylamine | 11.0 mmol, 1.54 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 44 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (Z)-2-Amino-α-[[1,1-dimethyl-2-oxo-2-(N-tritylpiperazinyl)ethoxy]imino]-4-thiazoleacetic acid, methyl ester | NC=1SC=C(N1)/C(/C(=O)OC)=N/OC(C(C1N(CCNC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)(C)C | C33H35N5O4S
